US05395816
One method for production of COMMAND® is disclosed in U.S. Pat. No. 4,405,357. Such preparation includes adding to a stirred solution of 6.3 grams (0,023 mole) of 3-chloro-N-(2-chlorophenyl)methyl-N-hydroxy-2,2-dimethylpropanamide in 45 ml of methanol dropwise a solution of 1.5 grams (0.023 mole) KOH (85% pure) in 25 ml methanol. The addition required 15 minutes and the temperature rose from 24° to 32° C. Upon completion of addition the reaction mixture was stirred for 18 hours at ambient temperature. By-product KCl was removed by filtering the mixture. The filtrate was poured into 500 ml of ice-water. The mixture was extracted with two portions of 250 ml each of methylene chloride. The combined extracts were dried with MgSO4 and filtered. Under reduced pressure the filtrate was concentrated to give 5.2 grams of 2-(2-chlorophenyl)methyl-4,4-dimethyl-3-isoxazolidinone as an oil.

reactant | 3-chloro-N-(2-chlorophenyl)methyl-N-hydroxy-2,2-dimethylpropanamide | 0,023 mole, 6.3 grams | ClCC(C(=O)N(O)CC1=C(C=CC=C1)Cl)(C)C | C12H15Cl2NO2
reactant | KOH | 0.023 mole, 1.5 grams | [OH-].[K+]
solvent | methanol | 45 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 2-(2-chlorophenyl)methyl-4,4-dimethyl-3-isoxazolidinone | 5.2 grams | ClC1=C(C=CC=C1)CN1OCC(C1=O)(C)C | C12H14ClNO2
